US04518597
6-[4-(4-Chlorophenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 5 from 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-(4-chlorophenylmercapto)-butylchloride.

reactant | 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | OC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C10H11NO3
reactant | 4-(4-chlorophenylmercapto)-butylchloride | ClC1=CC=C(C=C1)SCCCCCl | C10H12Cl2S
product | 6-[4-(4-Chlorophenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C20H22ClNO3S
